datasets/10k_Mayr_OG.csv
SMILES Labelled
"CO[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[CH:21]/[CH:22]=[N+:23]2/C(CC3=CC=CC=C3)C(=O)N(C)C2(C)C)[CH:36]=[CH:35]1.C[C:11]1([H:10])[O:12]CC[O:62]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([H:10])[CH:21]=[CH:22][N:23]2C(CC3=CC=CC=C3)C(=O)N(C)C2(C)C)[CH:36]=[CH:35]1.C[C:11]1=[O+:12]CC[O:62]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
CO[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1.[CH-:10]([N+:61]#[N:62])[C:71]1=[CH:72][CH:73]=[C:74]([N+:74](=[O:75])[O-:95])[CH:83]=[CH:82]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([CH:10]([N+:61]#[N:62])[C:71]2=[CH:72][CH:73]=[C:74]([N+:74](=[O:75])[O-:95])[CH:83]=[CH:82]2)[C:41]2=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1 10=20
C1C[S:31][CH+:20][S:41]C1.C[C:61]([CH-:10][C:71](C)=[O:72])=[O:62]>>C[C:61]([CH:10]([CH:20]1[S:31]CCC[S:41]1)[C:71](C)=[O:72])=[O:62] 10=20
"Br[C:12]1=[C:13]([NH2:14])[C:62](Br)=[CH:63][N:10]=[CH:11]1.CO[C:23]1=[CH:22][C:21](=[CH:20][C:41]2=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]2)[CH:32]=[C:33](OC)[C:24]1=[O:25]>>CO[C:23]1=[C:24]([O-:25])[C:33](OC)=[CH:32][C:21]([CH:20]([N:10]2[CH:11]=[C:12](Br)[C:13](=[NH2+:14])[C:62](Br)=[CH:63]2)[C:41]2=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]2)=[CH:22]1 10,11=10,20;12,13=11,12;14=13,14;20,21=21,22;22,23=23,24;24,25=25"
"CO[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](OC3=CC=CC=C3)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1.O=C(O)[C:73]1=[CH:72][C:61]2=[C:62]([NH:12][CH:11]=[CH:10]2)[CH:63]=[CH:64]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([CH:10]2[CH:11]=[NH+:12][C:62]3=[C:61]2[CH:72]=[C:73](C(=O)O)[CH:64]=[CH:63]3)[C:41]2=[CH:42][CH:43]=[C:44](OC3=CC=CC=C3)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1 10,11=10,20;12=11,12"
COC1=CC=CC(OC)=C1[P:10](C1=C(OC)C=CC=C1OC)C1=C(OC)C=CC=C1OC.C[N:49](C)[C:46]1=[CH:45][CH:44]=[C:43]([C:42](=[CH:41][CH+:20][C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:53]2=[CH:54][CH:55]=[C:56]([N:59](C)C)[CH:57]=[CH:58]2)[CH:48]=[CH:47]1>>COC1=CC=CC(OC)=C1[P+:10](C1=C(OC)C=CC=C1OC)(C1=C(OC)C=CC=C1OC)[CH:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[CH:41]=[C:42]([C:43]1=[CH:44][CH:45]=[C:46]([N:49](C)C)[CH:47]=[CH:48]1)[C:53]1=[CH:54][CH:55]=[C:56]([N:59](C)C)[CH:57]=[CH:58]1 10=20
"C/[C:10](=[C:11](\C)[O-:12])[C:61](C)=[O:62].O=[N+]([O-])[C:43]1=[CH:42][C:21]([N+:22](=[O:23])[O-:33])=[CH:20][S:44]1>>C[C:10]([C:11](C)=[O:12])([CH:20]1[C:21](=[N+:22]([O-:23])[O-:33])[CH:42]=[C:43]([N+](=O)[O-])[S:44]1)[C:61](C)=[O:62] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"COC1=CC=C(/[CH:10]=[C:11](/[N:12]2CCCC2)[C:62]2=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]2)C=C1.F[C:33]1=[CH:34][C:35](F)=[CH:36][C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[CH:44][C:45](F)=[CH:46]2)=[CH:32]1>>COC1=CC=C([CH:10]([C:11](=[N+:12]2CCCC2)[C:62]2=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]2)[CH:20]([C:31]2=[CH:32][C:33](F)=[CH:34][C:35](F)=[CH:36]2)[C:41]2=[CH:42][CH:43]=[CH:44][C:45](F)=[CH:46]2)C=C1 10,11=10,20;12=11,12"
"C[C:61]([CH-:10][C:81]1=[CH:82][CH:83]=[CH:84][CH:93]=[CH:92]1)=[O:62].[O-][N+]1=[C:33]2[C:32](=NO1)[C:21]([N+:22]([O-])=[O:23])=[CH:20][C:41]1=[N+:42]([O-])O[N:35]=[C:34]21>>C[C:61]([CH:10]([CH:20]1[C:21](=[N+:22]([O-])[O-:23])[C:32]2=NO[N+]([O-])=[C:33]2[C:34]2=[N:35]O[N+:42]([O-])=[C:41]12)[C:81]1=[CH:82][CH:83]=[CH:84][CH:93]=[CH:92]1)=[O:62] 10=20;20,21=21,22;22,23=23"
"C1CC[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)CC1.CC[O:72][C:61]([N:10]=[C:11](C)[O-:12])=[O:62]>>CC[O:72][C:61]([N:10]([C:11](C)=[O:12])[CH:20]([CH:21]=[CH:22][N:23]1CCCCC1)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)=[O:62] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC[O:62]/[C:11](=[CH:10]/[N:71]=[C:72](C1=CC=CC=C1)[C:73]1=[CH:74][CH:75]=[CH:76][CH:85]=[CH:84]1)[O-:12].CO[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>CC[O:62][C:11]([CH:10]([CH:20]([C:31]1=[CH:32][CH:33]=[C:34](OC)[CH:35]=[CH:36]1)[C:41]1=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]1)[N:71]=[C:72](C1=CC=CC=C1)[C:73]1=[CH:74][CH:75]=[CH:76][CH:85]=[CH:84]1)=[O:12] 10,11=10,20;12=11,12"
"CC(C)(C)[C:23]1=[CH:22][C:21](=[CH:20]/[CH:41]=[CH:42]/C2=CC=CC=C2)[CH:32]=[C:33](C(C)(C)C)[C:24]1=[O:25].CC12C3(C)C4(C)C5(C)C1(C)[Os-2:11]2345(C#[O+])(C#[O+])[H:10]>>CC(C)(C)[C:23]1=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32][C:21]([CH:20]([H:10])/[CH:41]=[CH:42]/C2=CC=CC=C2)=[CH:22]1.CC12C3(C)C4(C)C5(C)C1(C)[Os-:11]2345(C#[O+])C#[O+] 10,11=10,20;20,21=21,22;22,23=23,24;24,25=25"
"C1=C[C:31]2=[C:32](C=C1)[CH:33]=[CH:34][C:35]1=[C:36](C=CC=C1)[CH+:20]2.CC1=C[C:61]2=[C:62](C=C1)[NH:12][C:11](C)=[N:10]2>>CC1=C[C:61]2=[C:62](C=C1)[NH+:12]=[C:11](C)[N:10]2[CH:20]1[C:31]2=[C:32](C=CC=C2)[CH:33]=[CH:34][C:35]2=[C:36]1C=CC=C2 10,11=10,20;12=11,12"
